US04689390
252 g of Adeka Resin EP-4100, 16 g of PGE (phenyl glycidyl ether), 70 g of toluene and 70 g of IPA were added to 132 g of DEAPA and the addition reaction was carried out at 80° to 90° C. for 4 h while the solvent was refluxed. Then, toluene and IPA were distilled out. After thorough distillation of the solvent, a reaction product (A-2) was obtained. This reaction product was mixed with the phenoic novolac (B-1) obtained in Example 1 or bisphenol F in a ratio shown in the following table and a melt masking reaction was carried out at 150° C. for 3 h.

reactant | PGE | 16 g | C(C1CO1)OC1=CC=CC=C1 | C9H10O2
reactant | toluene | 70 g | C1(=CC=CC=C1)C | C7H8
reactant | DEAPA | 132 g | CCN(CC)CCCN | C7H18N2
reactant | IPA | 70 g | CC(C)O | C3H8O
product | bisphenol F | C1=CC=C(C(=C1)CC2=CC=CC=C2O)O | C13H12O2
